US07727985B2
6-chloro-7-cyclopropylmethoxy-8-nitro-9H-β-carboline (510 mg, 1.61 mmol) was suspended in 12 ml of methanol and 100 mg of Pd/C(10%) was added. The flask was fitted with a balloon of hydrogen and the reaction mixture was stirred overnight at RT. Upon filtration through a pad of celite and evaporation of the methanol, a dark brown solid was obtained. This residue was suspended in methanol (10 ml) and added, with vigorous stirring, to a solution of saturated NaHCO3 (100 ml). The light brown solid that precipitated out was collected by filtration and dried thoroughly in vacuo to give the desired 6-chloro-7-cyclopropylmethoxy-9H-β-carbolin-8-ylamine (371 mgs, 80% yield).

reactant | 6-chloro-7-cyclopropylmethoxy-8-nitro-9H-β-carboline | 1.61 mmol, 510 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OCC1CC1)[N+](=O)[O-] | C15H12ClN3O3
reactant | hydrogen | [H][H] | H2
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | methanol | 12 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 6-chloro-7-cyclopropylmethoxy-9H-β-carbolin-8-ylamine | 371 mgs, 80% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OCC1CC1)N | C15H14ClN3O
